US04767755
6.1. 6-Methyl-2-(4-nitrophenyl)imidazo[1,2-a]pyridine
59.5 g (0.2 mole) of 1-bromo-2-(4-nitrophenyl)-2-ethanone, 21.6 g (0.2 mole) of 2-amino-5-methylpyridine and 34 g of sodium bicarbonate are reacted in 200 ml of 95% strength ethanol. Stirring and refluxing are maintained for 3 hours, and the reaction mixture is then cooled and the ethanol evaporated off under reduced pressure. The evaporation residue is stirred in 700 ml of water at 70° C. for 3 hours, and the insoluble material is then filtered off, washed with 50 ml of ethanol and then ether and dried. M.p. 237°-239° C.

reactant | 1-bromo-2-(4-nitrophenyl)-2-ethanone | 0.2 mole, 59.5 g | BrCC(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C8H6BrNO3
reactant | 2-amino-5-methylpyridine | 0.2 mole, 21.6 g | NC1=NC=C(C=C1)C | C6H8N2
reactant | sodium bicarbonate | 34 g | C([O-])(O)=O.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 6-Methyl-2-(4-nitrophenyl)imidazo[1,2-a]pyridine | CC=1C=CC=2N(C1)C=C(N2)C2=CC=C(C=C2)[N+](=O)[O-] | C14H11N3O2
